reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([O:2][H:13])([H:8])([H:9])[H:10].[C:3]1(=[O:4])[C@@:5]([O:7][H:15])([H:11])[C:6]1([H:12])[H:14]>>[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10],34.80132119671432
[C:1]([C@@:2]([N:3]([H:10])[H:11])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([C:4]#[N:5])[H:9])([H:6])[H:8].[N:3]([H:7])([H:10])[H:11],71.4258644759796
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8]>>[O:1]([C@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]([C:5](=[O:6])[H:12])([H:13])[C:7]1([H:14])[H:15])[H:8],59.7740021650727
[C:1]([C:2]([O+:3]=[C-:4][O:5][H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([O:3][C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],31.8200496253068
[C:1]([N:4]([H:10])[H:11])([H:7])([H:8])[H:9].[N:2]#[C:3][C:5](=[O:6])[H:12]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9],76.5024332216458
[C:1]([O+:2]=[C-:3][O:4][H:12])([H:7])([H:8])[H:9].[C:5](=[N:6][H:13])([H:10])[H:11]>>[C:1]([O:2][C:3](=[O:4])[C:5]([N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],9.47111492150271
[C:1]([O:6][C:5](=[C:4]=[C:3]=[C:2]([H:10])[H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],85.3145421384136
[O:1]1[C@:2]2([H:8])[C@@:3]1([H:9])[N+:5]([C-:4]([H:10])[H:11])=[C:6]([H:12])[O:7]2>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],31.72190527716399
[C:1]([C@@:2]1([H:11])[C@:3]([C:4]#[N:5])([H:12])[N:6]1[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C@@:2]2([H:11])[C@@:3]([H:12])(/[C:4]1=[N:5]/[H:8])[N:6]2[C:7]([H:13])([H:14])[H:15],104.364052494676
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])=[C:5]([H:14])[H:15])([H:7])([H:8])[H:9].[O:6]([H:10])[H:16]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],66.92423821120121
[C:1]([C:2]1=[C:5]=[C:6]([H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:5]#[C:6][H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],46.10343957225329
[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([O+:5]=[C-:6][O:7][H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],77.1461686287613
[C-:5]#[O+:6].[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[H:13][H:16]>>[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],42.7334625533795
[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[H:8][H:12].[O:1]1[C:2]([H:7])=[C:3]([H:9])[C:4]([H:10])([H:11])[C:5]1=[O:6],65.9838786525268
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[C:3](=[N:4][H:14])([H:12])[H:13],105.477950050963
[N:1](=[C:2](/[N:3]1[N:4]=[C:5]1[H:8])[H:7])\[H:6]>>[n:1]1([H:6])[c:2]([H:7])[n:3][n:4][c:5]1[H:8],32.04236621683961
[C:1]([C:2]1([H:11])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10].[O:3]=[C:4]=[O:5]>>[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],83.74339040442547
[C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9].[C:4](=[C:5]([O:6][H:16])[H:15])([H:13])[H:14]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9],74.97333756076925
[C:1]1([H:9])([H:10])[C@:2]([O:3][H:12])([H:11])[C@:4]([C:5]([H:14])([H:15])[H:16])([H:13])[C:6][N:7]1[H:8]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10],60.2405786397123
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([O:2][C:3]([O:4][H:13])=[C:5]([H:11])[H:12])([H:8])([H:9])[H:10],48.6963243276455
[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O+:4][C-:5]([C:6]([H:16])([H:17])[H:18])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[H:13][H:15],82.2968333171559
[C:1]([N:2]([C:3](=[O:4])[O:5][C:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[N:2][H:10])([H:7])[H:9].[C:3](=[O:4])([O:5][C:6]([H:11])([H:12])[H:13])[H:8],106.41540979323901
[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:13])[H:10])([H:7])([H:8])[H:9].[H:12][H:14]>>[C:1]([C@@:2]1([H:10])[C@:3]([O:4][H:12])([H:11])[C@:5]1([O:6][H:14])[H:13])([H:7])([H:8])[H:9],59.9890052684238
[C-:3]#[O+:4].[C:1]([C:2]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],112.69566300784727
